US06911447B2
Preparation of 2-[3-(3-Benzyloxycarbonylamino-propyl)-4-(2-nitro-benzene-sulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester (41):
A mixture of 2-[5-benzyloxycarbonylamino-2-(2-nitro-benzenesulfonylamino)-pentanoylamino]-3-naphthalen-2-yl-propionic acid methyl ester, 40, (2.4 g, 3.63 mmol), dibromoethane (3.8 mL, 4.36 mmol), potassium carbonate (5.0 g, 36.3 mmol) in DMF (50 mL) is stirred at 55° C. for 18 hours. The reaction mixture is cooled to room temperature, treated with 1M KHSO4 and the resulting solution is extracted with ethyl acetate. The crude product is purified over silica (sequential elution with EtOAc/hexanes mixtures 1:2,1:1, 100% EtOAc, then EtOAc with 5% MeOH) to afford 2.76 g of the desired product.

reactant | 2-[5-benzyloxycarbonylamino-2-(2-nitro-benzenesulfonylamino)-pentanoylamino]-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)NC(C(CCCNC(=O)OCC1=CC=CC=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C33H34N4O9S
reactant | dibromoethane | 3.63 mmol, 3.8 mL, 2.4 g | BrC(C)Br | C2H4Br2
reactant | potassium carbonate | 36.3 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-[3-(3-Benzyloxycarbonylamino-propyl)-4-(2-nitro-benzene-sulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester | 2.76 g | COC(C(CC1=CC2=CC=CC=C2C=C1)N1C(C(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCCNC(=O)OCC1=CC=CC=C1)=O)=O | C35H36N4O9S
